US06518272B2
Cyclohexanecarboxylic Acid {(1R)-1-Cyclohexylmethyl-2-[4-(isoquinolin-1-yl)-piperazin-1-yl]-ethyl}-amide
To a mixture of 0.25 g (0.64 mmol) of {(1R)-1-cyclohexylmethyl-2-[4-(isoquinolin-1-yl)-piperazin-1-yl]-ethyl}-amine and 0.145 g (1.05 mmol) of anhydrous potassium carbonate in 10 mL of dichloromethane and 1 mL of water at 0° C. was added dropwise 0.10 g (0.70 mmol) of cyclohexanecarboxylic acid chloride. The reaction mixture was allowed to stir under nitrogen overnight, during which time it came up to room temperature. The phases were separated and the aqueous phase was extracted with four additional 10 mL portions of dichloromethane. The combined organic layers were dried over anhydrous sodium sulfate, filtered and concentrated on a rotary evaporator to yield the crude product, which was purified by flash chromatography on silica gel (dichloromethane/methanol) and converted to the hydrochloride salt of the title compound with isopropanolic HCl to yield 0.17 g (58%) as a white solid; mp=155-159° C.; MS (+) ESI m/z=463 (M+H)+.

reactant | {(1R)-1-cyclohexylmethyl-2-[4-(isoquinolin-1-yl)-piperazin-1-yl]-ethyl}-amine | 0.64 mmol, 0.25 g | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=NC=CC2=CC=CC=C12)N | C22H32N4
reactant | potassium carbonate | 1.05 mmol, 0.145 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclohexanecarboxylic acid chloride | 0.70 mmol, 0.10 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 1 mL | O | H2O
product | Cyclohexanecarboxylic Acid {(1R)-1-Cyclohexylmethyl-2-[4-(isoquinolin-1-yl)-piperazin-1-yl]-ethyl}-amide | C1(CCCCC1)C[C@H](CN1CCN(CC1)C1=NC=CC2=CC=CC=C12)NC(=O)C1CCCCC1 | C29H42N4O
